US06174889B1
(1-Benzyl-1H-indazol-5-yl)-(6-(3-methyl-3H-imidazol-4-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine
(1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine (0.70 g, 1.81 mmol), 1-methyl-5-[tri(n-butyl)stannyl]imidazole (prepared according to the published method: K. Gaare et. al., Acta Chem. Scand., (1993), 47(1), p57-62) (2.2 g, 6 mmol), 1,4-bis(diphenylphosphino)-butane palladium (II) chloride (0.41 g, 0.7 mmol) and silver oxide (0.22 g, 1.8 mmol) were reacted in dry dioxane according to Procedure B. Purification by silica gel chromatography, eluting with 10%MeOH/EtOAc, gave the product as a pale brown solid (0.16 g, 0.37 mmol, 20%); δH CDCl310.62 (1H,s), 9.25 (1H,s), 8.75 (1H,s), 8.60 (1H,s), 8.13 (1H,s), 8.03 (1H,s), 7.20-7.78 (9H,m), 5.61 (2H,s), 3.96 (3H,s); m/z (M+1+) 433.

reactant | (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 1.81 mmol, 0.70 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)Cl | C21H15ClN6
reactant | 1-methyl-5-[tri(n-butyl)stannyl]imidazole | CN1C=NC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | 1,4-bis(diphenylphosphino)-butane palladium (II) chloride | 0.7 mmol, 0.41 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
catalyst | silver oxide | 1.8 mmol, 0.22 g | [Ag]=O
product | (1-Benzyl-1H-indazol-5-yl)-(6-(3-methyl-3H-imidazol-4-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine | 0.37 mmol, 0.16 g, 20% | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C=2N(C=NC2)C | C25H20N8
